US09108966B2
HATU (3.3 g, 8.7 mmol) and tert-butyl 4-(hydrazinecarbonyl)piperidine-1-carboxylate (2.29 g, 9.42 mmol) were added to a solution of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carboxylic acid (2.0 g, 7.25 mmol) in CH2Cl2 (50 mL) at 0° C. DIPEA (2.8 g, 21.8 mmol) was then added and the reaction mixture was stirred at 0° C. for 12 hrs. The reaction mixture was then washed with water and saturated sodium chloride and dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (10:1 DCM/MeOH) to give tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinecarbonyl)piperidine-1-carboxylate (2.2 g, 62%) as a white solid. ESI-MS (EI+, m/z): 502.2 [M+H]+.

reactant | HATU | 8.7 mmol, 3.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 4-(hydrazinecarbonyl)piperidine-1-carboxylate | 9.42 mmol, 2.29 g | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carboxylic acid | 7.25 mmol, 2.0 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | DIPEA | 21.8 mmol, 2.8 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinecarbonyl)piperidine-1-carboxylate | 2.2 g, 62% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC(=O)C2CCN(CC2)C(=O)OC(C)(C)C | C25H35N5O6
